US07807668B2
To a stirred solution of [bis(trifluoroacetoxy)iodo]benzene (PIFA) (258 mg, 0.6 mmol) in MeCN/water 2:1 (3 ml) at 0° C. was added octyl 8-hydroxyquinoline-2-carboxylate (71 mg, 0.24 mmol) in CH2Cl2 (1 ml). The solution was stirred for 20 min, poured into CH2Cl2 (20 mL), washed with water and dried in vacuo to give octyl 5,8-dioxo-5,8-dihydroquinoline-2-carboxylate (69 mg, 90%).

reactant | [bis(trifluoroacetoxy)iodo]benzene | 0.6 mmol, 258 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | octyl 8-hydroxyquinoline-2-carboxylate | 0.24 mmol, 71 mg | OC=1C=CC=C2C=CC(=NC12)C(=O)OCCCCCCCC | C18H23NO3
solvent | MeCN water | 3 ml | CC#N.O
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | octyl 5,8-dioxo-5,8-dihydroquinoline-2-carboxylate | 69 mg, 90% | O=C1C=2C=CC(=NC2C(C=C1)=O)C(=O)OCCCCCCCC | C18H21NO4
